US08614327B2
To a solution of 1-(benzyloxy)-4-fluoro-5-nitro-2-(trifluoromethyl)benzene (382 mg, 1.21 mmol) and NiCl2 (314 mg, 2.42 mmol) in methanol (40 mL) was added NaBH4 (50 mg, 1.32 mmol) portionwise at 0° C. The reaction turned black after 20 minutes. The reaction mixture was quenched with NaHCO3 and diluted with EtOAc. The reaction mixture was then filtered through a plug of celite, the layers separated and the aqueous layer was extracted with EtOAc. The combined organic layer was dried over Na2SO4, filtered and concentrated. The residue was then purified by silica gel column chromatography using 15% EtOAc/hexane gradient to give 5-(benzyloxy)-2-fluoro-4-(trifluoromethyl)aniline (150 mg, 43%). LC/MS: m/z 286.1 (M+H)+ at 1.89 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 1-(benzyloxy)-4-fluoro-5-nitro-2-(trifluoromethyl)benzene | 1.21 mmol, 382 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)[N+](=O)[O-])F)C(F)(F)F | C14H9F4NO3
reactant | NaBH4 | 1.32 mmol, 50 mg | [BH4-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
catalyst | NiCl2 | 2.42 mmol, 314 mg | Cl[Ni]Cl
product | 5-(benzyloxy)-2-fluoro-4-(trifluoromethyl)aniline | 150 mg, 43% | C(C1=CC=CC=C1)OC=1C(=CC(=C(N)C1)F)C(F)(F)F | C14H11F4NO
